US04489089
5-Chloro-N-[8-(1H-imidazol-1-yl)octyl]-2-thiophene carboxamide
When 1H-imidazole-1-octylamine is treated with 5-chlorothiophene-2-carbonyl chloride by the procedure of Example 36, the title compound, m.p. 95°-97° C., was obtained.

reactant | 1H-imidazole-1-octylamine | N1(C=NC=C1)CCCCCCCCN | C11H21N3
reactant | 5-chlorothiophene-2-carbonyl chloride | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
product | 5-Chloro-N-[8-(1H-imidazol-1-yl)octyl]-2-thiophene carboxamide | ClC1=CC=C(S1)C(=O)NCCCCCCCCN1C=NC=C1 | C16H22ClN3OS
